US07173058B2
3-(4-Acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-N-hydroxy-propionamide was prepared by the procedure of example 8 from 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid (0.5 g, 1.1 mmol), CDI (0.2 g, 1.3 mmol) and hydroxylamine hydrocloride (0.1 g, 1.4 mmol) in THF (10 ml) to give 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-N-hydroxy-propionamide as white solid (0.25 g, 50% yield): mp 148–150° C.; 1HNMR (CDCl3): δ1.44 (t, J=7.0 Hz, 3H, OCH2CH3), 2.19 (s, 3H, CH3CO), 3.19 (dd, J=5, 15 Hz, 1H, CH2), 3.47 (dd, J=10, 15 Hz, 1H, CH2), 4.02 (q, J=7.0 Hz, 2H, OCH2CH3), 5.75–5.82 (m, 1H, CHN), 6.52 (t, JH-F=75 Hz, 1H, CF2H), 7.02–7.07 (m, 3H, Ar), 7.36 (d, J=7.5 Hz, 1H, Ar), 7.54 (t, J=7.5 Hz, 1H, Ar), 8.64(d, J=8.8 Hz, 1H, Ar), 9.40 (s, 1H, NHCO). 13CNMR (CDCl3): δ 14.5, 24.8, 34.6, 51.1, 64.7, 111.8, 113.5, 115.1, 115.9, 120.1, 122.6, 124.9, 131.0, 136.0, 136.7, 137.4, 140.0, 150.5, 167.1, 167.7, 169.3, 169.6 Anal Calcd for C22H21F2N3O7 +0.3 H2O: C, 54.73; H, 4.51; N, 8.70. Found: C, 54.36; H, 4.25; N, 8.54; 0.1% H2O.

reactant | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid | 1.1 mmol, 0.5 g | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC)=O | C22H20F2N2O7
reactant | CDI | 1.3 mmol, 0.2 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | hydroxylamine hydrocloride | 1.4 mmol, 0.1 g | Cl.NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-N-hydroxy-propionamide | 0.25 g, 50% yield | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)NO)C1=CC(=C(C=C1)OC(F)F)OCC)=O | C22H21F2N3O7
